US07625922B2
3-tert-butyl-1-(pyridin-4-yl)-1H-pyrazol-5-amine
4-hydrazinopyridine hydrochloride (400 mg, 2.74 mmol) was dissolved in MeOH and passed through a column filled with the ion-exchange resin Ambersep 900-OH (Fluka). MeOH was eluted until no product remains in the column (checked by TLC). Concentration of the resulting methanolic solution afforded 4-hydrazinopyridine (285 mg, 95%) as a red oil. 1H-NMR (δ, ppm, DMSO-d6): 4.14 (s, 2H, NH2), 6.62 (d, 2H, Harom,Py, J=6.2 Hz), 7.51 (s, 1H, NH), 8.00 (d, 2H, Harom,Py, J=6.2 Hz). A mixture of 4-hydrazinopyridine (285 mg, 2.61 mmol) and 4,4-dimethyl-3-oxopentanenitrile (327 mg, 2.61 mmol) in toluene (1 mL) was heated under reflux during 16 h. After cooling to room temperature, evaporation of the solvent in vacuo afforded a brown residue which was purified by chromatography on silica gel (cyclohexane-EtOAc, 6:4 until 3:7). The title compound (291 mg, 51%) was obtained as a pale yellow solid (Rf 0.27, cyclohexane-EtOAc, 3:7). 1H-NMR (δ, ppm, DMSO-d6): 1.22 (s, 9H, t-Bu), 5.46 (s, 1H, HPyz,4), 5.56 (s, 2H, NH2), 7.70 (s, 2H, Harom,Py), 8.56 (s, 2H, Harom,Py). 13C-NMR (δ, ppm, DMSO-d6): 29.8 ((CH3)3), 31.9 (C(CH3)3), 88.7 (CPyz,4), 114.6 (CPy,3+5), 146.0 and 148.5 (CPyz,5 and CPyz,3), 150.4 (CPy,2+6), 162.5 (CPyz,4). LC-MS (m/z): 217 (M+H, 100).

reactant | 4-hydrazinopyridine | 2.61 mmol, 285 mg | N(N)C1=CC=NC=C1 | C5H7N3
reactant | 4,4-dimethyl-3-oxopentanenitrile | 2.61 mmol, 327 mg | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 3-tert-butyl-1-(pyridin-4-yl)-1H-pyrazol-5-amine | 291 mg, 51% | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=NC=C1 | C12H16N4
